US08664226B2
Production of 2-{2-{5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-4-butyl-2-methyl-6-oxopyrimidin-1(6H)-yl}pyrimidin-5-yl oxy}acetic acid
To the mixture solution of tetrahydrofuran (2 mL) and water (2 mL) containing 2-{2-(5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-4-butyl-2-methyl-6-oxopyrimidin-1 (6H)-yl)pyrimidin-5-yl oxy}ethyl acetate (22 mg, 0.038 mmol), lithium hydroxide (8 mg, 0.29 mmol) was added and stirred at 50° C. for 1 hr. The reaction mixture was added water and extracted with chloroform. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residues were subjected to silica gel column chromatography (chloroform/methanol) to obtain the target compound (15 mg, 72%) as a white solid.

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 2-{2-(5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-4-butyl-2-methyl-6-oxopyrimidin-1 (6H)-yl)pyrimidin-5-yl oxy}ethyl acetate | 0.038 mmol, 22 mg | C(C)(=O)OCCOC=1C=NC(=NC1)N1C(=NC(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCCC)C | C31H32N8O4
reactant | lithium hydroxide | 0.29 mmol, 8 mg | [OH-].[Li+]
solvent | water | O | H2O
solvent | water | 2 mL | O | H2O
product | 2-{2-{5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-4-butyl-2-methyl-6-oxopyrimidin-1(6H)-yl}pyrimidin-5-yl oxy}acetic acid | 15 mg, 72% | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CC1=C(N=C(N(C1=O)C1=NC=C(C=N1)OCC(=O)O)C)CCCC | C29H28N8O4
